US07067540B2
3-bromo-4-[(2,4-difluorobenzyl)oxy]-1-(2,6-difluorophenyl)-6-[(dimethylamino)methyl]pyridin-2(1H)-one
In a 50 ml round bottom flask 5-bromo-4-[(2,4-difluorobenzyl)oxy]-1-(2,6-difluorophenyl)-6-oxo-1,6-dihydropyridine-2-carbaldehyde (0.456 gm, 1.0 mmol) was stirred in dichloromethane (5 mL). To this mixture was added a 2M THF solution of dimethyl amine (1.25 ml, 2.5 mmol). The mixture was allowed to stir under nitrogen atmosphere and at room temperature for 2 hours. To this mixture was then added triacetoxy sodium borohydride (0.37 g, 1.75 mmol) followed by two to three drops of acetic acid. The mixture was then stirred at rt overnight. The solvents were then removed by evaporation and the residue was taken up in ethyl acetate (30 ml) and washed with aqueous sodium bicarbonate and brine. The organics were then combined, dried over MgSO4, and concentrated in vacuo. The crude product was purified by flash column chromatography using a solvent gradient of (3:1) ethyl acetate-hexane to (0:100) ethyl acetate to give 0.14 g (30% yield) of the desired product. 1H NMR (300 MHz, DMSO-d6) δ 7.73-7.58 (m, 2H), 7.42-7.30 (m, 3H), 7.22 (dt, J=8.73, 2.60 Hz, 1H), 6.81 (s, 1H), 5.44 (s, 2H), 3.04 (s, 2H), 1.96 (s, 6H); ES-MS m/z 485.0 (M+H). ES-HRMS m/z 485.0457 (M+H calcd for C21H18BrF4N2O2, requires 485.0489).

reactant | 5-bromo-4-[(2,4-difluorobenzyl)oxy]-1-(2,6-difluorophenyl)-6-oxo-1,6-dihydropyridine-2-carbaldehyde | 1.0 mmol, 0.456 gm | BrC1=C(C=C(N(C1=O)C1=C(C=CC=C1F)F)C=O)OCC1=C(C=C(C=C1)F)F | C19H10BrF4NO3
reactant | THF | 2M | C1CCOC1 | C4H8O
reactant | dimethyl amine | 2.5 mmol, 1.25 ml | CNC | C2H7N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | acetic acid | two to three drops | C(C)(=O)O | C2H4O2
product | 3-bromo-4-[(2,4-difluorobenzyl)oxy]-1-(2,6-difluorophenyl)-6-[(dimethylamino)methyl]pyridin-2(1H)-one | 0.14 g, 30% yield | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)CN(C)C)C1=C(C=CC=C1F)F)=O | C21H17BrF4N2O2
